US06992231B2
JP79125629 (1979) discloses a method for preparing α,α,α′,α′-tetrachloro-p-xylene by reacting 4-methyl benzaldehyde with PCl5, forming an intermediate product 4-methyl, 1-(dichloromethyl)benzene, and conducting a photochlorination reaction. This prior art method has the following reaction formula: The abovementioned reaction is a two-step reaction. Even though the first step reaction has a yield of 96.5%, the second step reaction has a very low yield. The product mixture is very difficult to be purified.

reactant | α,α,α′,α′-tetrachloro-p-xylene | ClC(C1=CC=C(C=C1)C(Cl)Cl)Cl | C8H6Cl4
reactant | 4-methyl benzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | PCl5 | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 1-(dichloromethyl)benzene | yield of 96.5% | ClC(C1=CC=CC=C1)Cl | C7H6Cl2
